US04550107
(a) (+)-2-[(Diethylamino)methyl]piperidine
The title compound is prepared analogously to Example 52(a) from racemic 2-[(dimethylamino)methyl]piperidine and D-(-)-tartaric acid. The ditartrate melted at 191°-192.5° C. The base, with a boiling point 17 mm Hg 88°-94° C., had a content of (+)-enantiomer determined by reaction with (S)-(-)-1-phenylethylisocyanate and subsequent HPLC investigation, of 98.5%. [α]D20 =+64° (ethanol).

reactant | racemic 2-[(dimethylamino)methyl]piperidine | CN(C)CC1NCCCC1 | C8H18N2
reactant | D-(-)-tartaric acid | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
reactant | (S)-(-)-1-phenylethylisocyanate | C1(=CC=CC=C1)[C@H](C)N=C=O | C9H9NO
solvent | ethanol | C(C)O | C2H6O
product | (+)-2-[(Diethylamino)methyl]piperidine | C(C)N(CC)CC1NCCCC1 | C10H22N2
